US07557133B2
Ethyl 3-(1,3-dimethyl-1H-indol-2-yl)-5-ethyl-4,5-dihydro-5-isoxazolecarboxylate (VIi)
1,3-Dimethyl-1H-indol-2-aldehyde oxime derivative (356 mg, 2.07 mmol) was dissolved in dichloromethane (20 ml), and the mixture was kept at 0□. Ethyl 2-ethylacrylate (345 mg, 1.3 Eq) and triethylamine (6 drops) were dissolved in dichloromethane (5 ml), thus obtained solution was slowly added to the above, and sodium hypochlorite solution (5.5 ml) was further added. The reaction solution was warmed to room temperature and stirred for 4 hours. Water (20 ml) was added, and the mixture was extracted with dichloromethane (40 ml×2), washed with aqueous sodium chloride solution (20 ml), dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography (15% ethyl acetate-hexane) to give the title compound (230 mg, Yield 35%).

reactant | 1,3-Dimethyl-1H-indol-2-aldehyde oxime | 2.07 mmol, 356 mg | CN1C(=C(C2=CC=CC=C12)C)C=NO | C11H12N2O
reactant | Ethyl 2-ethylacrylate | 345 mg, 1.3 Eq | C(C)C(C(=O)OCC)=C | C7H12O2
reactant | sodium hypochlorite | 5.5 ml | Cl[O-].[Na+]
reactant | Water | 20 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | triethylamine | 6 drops | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Ethyl 3-(1,3-dimethyl-1H-indol-2-yl)-5-ethyl-4,5-dihydro-5-isoxazolecarboxylate | 230 mg, Yield 35% | CN1C(=C(C2=CC=CC=C12)C)C1=NOC(C1)(C(=O)OCC)CC | C18H22N2O3
